US07829586B2
1-(3,5-Difluorophenyl)-4,4-diethoxybutane-1,3-dione
At −78° C., a tetrahydrofuran (20 ml) solution of 3,5-difluoroacetophenone (8.86 g) was added to a tetrahydrofuran (180 ml) solution of 1 N lithium hexamethyldisilazide/tetrahydrofuran solution (68 ml), and stirred at the same temperature for 1 hour. At −78° C., ethyl diethoxyacetate (12.2 ml) was added to the reaction liquid, and stirred overnight at room temperature. At 0° C., 2 N hydrochloric acid (60 ml) was added to the reaction liquid, and extracted with ethyl acetate. The extract was washed with saturated saline water, dried with anhydrous magnesium sulfate, and the solvent was evaporated off to obtain the entitled compound (16.5 g).

reactant | 3,5-difluoroacetophenone | 8.86 g | CC(=O)C1=CC(=CC(=C1)F)F | C8H6F2O
reactant | lithium hexamethyldisilazide tetrahydrofuran | 1 N, 68 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+].O1CCCC1
reactant | ethyl diethoxyacetate | 12.2 ml | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | hydrochloric acid | 2 N, 60 ml | Cl | ClH
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(3,5-Difluorophenyl)-4,4-diethoxybutane-1,3-dione | 16.5 g | FC=1C=C(C=C(C1)F)C(CC(C(OCC)OCC)=O)=O | C14H16F2O4
